US06743811B2
5-(S)-Aminomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one
Triphenylphosphine (2.82 g, 10.8 mmol) was added portionwise to a solution of 5-(S)-azidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one (5.00 g, 9.79 mmol) in THF (40 mL), and the mixture stirred for 2 h at r.t. Water (1.41 mL, 78.3 mmol) was added, and the mixture heated at 40° C. overnight. Solvent was removed under vacuum, and the oily residue purified by column chromatography (eluent: DCM, then 10% MeOH in DCM). Yield 3.56 g (75%). MS (m/z): [M+H]+=485.

reactant | Triphenylphosphine | 10.8 mmol, 2.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-(S)-azidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one | 9.79 mmol, 5.00 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C29H23FN4O2S
reactant | Water | 78.3 mmol, 1.41 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-(S)-Aminomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C29H25FN2O2S
